US05145858
2-(4-Phenoxythiocarbonylthiophenyl)-3-(4-pyridyl)-6,7-dihydro-[5H]-pyrrolo[1,2-a]imidazole
To an ice bath cooled solution containing 1.0 g (3.4 mmole) of 2-(4-mercaptophenyl)-3-(4-pyridyl)-6,7-dihydro-[5H]-pyrrolo[1,2-a]imidazole prepared as in Example 16 and 0.5 ml (3.6 mmole) of triethylamine in 10 ml of diglyme is added 0.48 ml (3.5mmole) of phenyl chlorothionoformate. The reaction is allowed to warm to room temperature and heated at 40° to 120° C. for several hours. Workup and chromatography in a manner analogous to that outlined in Example 18 affords the desired titled compound.

reactant | 2-(4-mercaptophenyl)-3-(4-pyridyl)-6,7-dihydro-[5H]-pyrrolo[1,2-a]imidazole | 3.4 mmole, 1.0 g | SC1=CC=C(C=C1)C=1N=C2N(C1C1=CC=NC=C1)CCC2 | C17H15N3S
reactant | triethylamine | 3.6 mmole, 0.5 ml | C(C)N(CC)CC | C6H15N
reactant | phenyl chlorothionoformate | 3.5mmole, 0.48 ml | C1=CC=C(C=C1)OC(=S)Cl | C7H5ClOS
solvent | diglyme | 10 ml | COCCOCCOC | C6H14O3
product | 2-(4-Phenoxythiocarbonylthiophenyl)-3-(4-pyridyl)-6,7-dihydro-[5H]-pyrrolo[1,2-a]imidazole | O(C1=CC=CC=C1)C(=S)SC1=CC=C(C=C1)C=1N=C2N(C1C1=CC=NC=C1)CCC2 | C24H19N3OS2
